US09303023B2
To an ice-cooled solution of thiourea (1 g, 13.14 mmol) and diethyl methylmalonate (3.4 mL, 19.71 mmol) in EtOH (15 mL), NaOMe (2.68 g, 39.41 mmol) was added portionwise. After stirring at 0° C. for 30 min, the reaction was allowed to reach rt and was stirred for another 3 h at rt. The mixture was quenched with diluted acetic acid and the solid was filtered off to yield 2-mercapto-5-methylpyrimidine-4,6-diol as a white solid which was used in the next step without further purification. LC-MS conditions A: tR=0.21 min, [M+H]+=159.11.

reactant | thiourea | 13.14 mmol, 1 g | NC(=S)N | CH4N2S
reactant | diethyl methylmalonate | 19.71 mmol, 3.4 mL | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | NaOMe | 39.41 mmol, 2.68 g | C[O-].[Na+]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 2-mercapto-5-methylpyrimidine-4,6-diol | SC1=NC(=C(C(=N1)O)C)O | C5H6N2O2S
